US07183302B2
Preparation of Intermediate E (General Synthetic Scheme 2) 3-(5-Methylpyrazin-2-ylmethyl)-2-(4-morpholin-4-ylphenylimino)-thiazolidin-4-one
A suspension of 1-(5-Methylpyrazin-2-ylmethyl)-3-(4-morpholin-4-ylphenyl)-thiourea (1.7 g, 5.0 mmol, 1.0 equiv) and NaOAc (0.82 g, 10.0 mmol, 2.0 equiv) in 30 mL ethanol was treated with ethyl bromoacetate (0.55 ml, 5.0 mmol, 1.0 equiv) as a neat liquid via syringe. The heterogeneous mixture was heated to 80° C. overnight. The solvent was removed in vacuo, and the residue was partitioned between EtOAc and saturated NaHCO3. After drying the organic layer with brine and Na2SO4, the product was purified by flash chromatography (40 to 90% EtOAc in hexanes) to afford 1.4 g (73%) of the title compound as a yellow-orange foam: 1H NMR (500 MHz, CDCl3) δ 8.53 (d, 1H, J=1.5 Hz), 8.39 (d, 1H, J=1.5 Hz), 6.85 (s, 4H), 5.15 (s, 2H), 3.90 (s, 2H), 3.85 (m, 4H), 3.12 (m, 4H), 2.54 (s, 3H); MS (ESI) m/z=384.2 (MH+).

reactant | 1-(5-Methylpyrazin-2-ylmethyl)-3-(4-morpholin-4-ylphenyl)-thiourea | 5.0 mmol, 1.7 g, 1.0 equiv | CC=1N=CC(=NC1)CNC(=S)NC1=CC=C(C=C1)N1CCOCC1 | C17H21N5OS
reactant | NaOAc | 10.0 mmol, 0.82 g, 2.0 equiv | CC(=O)[O-].[Na+]
reactant | ethyl bromoacetate | 5.0 mmol, 0.55 ml, 1.0 equiv | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-(5-Methylpyrazin-2-ylmethyl)-2-(4-morpholin-4-ylphenylimino)-thiazolidin-4-one | 1.4 g, 73% | CC=1N=CC(=NC1)CN1C(SCC1=O)=NC1=CC=C(C=C1)N1CCOCC1 | C19H21N5O2S
